US04847273
A solution of 3.0 g (0.001 mol) of α-acetyl-N,N-dimethyl-3-nitrostyrenesulfonamide and 1.43 g (0.01 mol) of 3-aminocrotonic acid isopropyl ester in 30 ml of isopropanol is heated to reflux for 2 hours, thereupon treated with 1.16 g (0.005 mol) of DL-camphor-10-sulfonic acid and then heated to reflux for an additional 15 minutes. After concentration under reduced pressure, the oily residue is partitioned between water and methylene chloride, the organic phase is washed with a saturated aqueous solution of sodium chloride, dried over sodium sulfate and concentrated to dryness. The residual yellow oil is chromatographed on 350 g of silica gel with methylene chloride/ethyl acetate (9:1) as the elution agent. The homogeneous fractions yield an oil which crystallizes upon trituration with ether. After recrystallization from methylene chloride/ether, there are obtained 3.2 g (75.5%) of 5-(dimethylsulfamoyl)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-nicotinic acid isopropyl ester, m.p. 136°-138°, as a yellowish crystalline powder.

reactant | α-acetyl-N,N-dimethyl-3-nitrostyrenesulfonamide | 0.001 mol, 3.0 g | C(C)(=O)C(=CS(=O)(=O)N(C)C)C1=CC(=CC=C1)[N+](=O)[O-] | C12H14N2O5S
reactant | 3-aminocrotonic acid isopropyl ester | 0.01 mol, 1.43 g | C(C)(C)OC(\C=C(\C)/N)=O | C7H13NO2
reactant | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | 5-(dimethylsulfamoyl)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-nicotinic acid isopropyl ester | 3.2 g, 75.5% | C(C)(C)OC(C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])S(N(C)C)(=O)=O)C)C)=O | C19H25N3O6S
